US06492383B1
5-(6-Phenyl-thieno[3,2-d]pyrimidin-4-ylamino)-1H-indole-3-carbaldehyde
To a solution of (1H-Indol-5-yl)-(6-phenyl-thieno[3,2-d]pyrimidin-4-yl)-amine (481 mg, 1.4 mmol) in 3 mL of methylene chloride in a 3-neck flask with dropping funnel under nitrogen at 0° C. was added titanium tetrachloride (461 mL, 4.2 mmol) dropwise. The mixture was stirred for 30 minutes and then dichloromethoxy methane (380 mL, 4.2 mmol) was added dropwise. The reaction was warmed to room temperature and concentrated in vacuo. The resulting residue was pre-absorbed onto silica gel (10 gm) and purified by flash chromatography using a 5% methanol/methylene chloride to afford the title compound in 92% yield. RP18-HPLC RT: 4.80 minutes; API MS: 371.20 (M+1); MP: 174-175° C.

reactant | (1H-Indol-5-yl)-(6-phenyl-thieno[3,2-d]pyrimidin-4-yl)-amine | 1.4 mmol, 481 mg | N1C=CC2=CC(=CC=C12)NC=1C2=C(N=CN1)C=C(S2)C2=CC=CC=C2 | C20H14N4S
reactant | dichloromethoxy methane | 4.2 mmol, 380 mL | ClC(OC)Cl | C2H4Cl2O
solvent | methylene chloride | 3 mL | C(Cl)Cl | CH2Cl2
catalyst | titanium tetrachloride | 4.2 mmol, 461 mL | [Ti](Cl)(Cl)(Cl)Cl
product | 5-(6-Phenyl-thieno[3,2-d]pyrimidin-4-ylamino)-1H-indole-3-carbaldehyde | 92% yield | C1(=CC=CC=C1)C1=CC=2N=CN=C(C2S1)NC=1C=C2C(=CNC2=CC1)C=O | C21H14N4OS
